US07582652B2
2-tert-Butyl-4-(4-fluorophenyl)-5-trimethylstannanyloxazole
Dissolve 2-tert-butyl-4-(4-fluorophenyl)oxazole (0.61 g, 2.77 mmol) in THF (15 ml) and add tert-butyl lithium (3.3 ml, 1.7 M) at −78° C. Stir the mixture for 45 min. Add trimethylstannanyl chloride (0.58 g, 2.90 mmol) and allow the temperature to reach RT. Stir for 2 h and add an ammonium chloride solution (200 μL, pH=8 with ammonia) and concentrate.

reactant | 2-tert-butyl-4-(4-fluorophenyl)oxazole | 2.77 mmol, 0.61 g | C(C)(C)(C)C=1OC=C(N1)C1=CC=C(C=C1)F | C13H14FNO
reactant | tert-butyl lithium | 1.7 M, 3.3 ml | C(C)(C)(C)[Li]
reactant | trimethylstannanyl chloride | 2.90 mmol, 0.58 g | C[Sn](C)(C)Cl
reactant | ammonium chloride | 200 μL, pH=8 | [Cl-].[NH4+]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-tert-Butyl-4-(4-fluorophenyl)-5-trimethylstannanyloxazole | C(C)(C)(C)C=1OC(=C(N1)C1=CC=C(C=C1)F)[Sn](C)(C)C | InChI=1S/C13H13FNO.3CH3.Sn/c1-13(2,3)12-15-11(8-16-12)9-4-6-10(14)7-5-9;;;;/h4-7H,1-3H3;3*1H3;
